US07462630B2
Synthesis of 3-hydroxy-2-[(1-piperidinylcarbonyl)amino]propionic acid:
200 mg (0.869 mmol) of methyl 3-hydroxy-2-[(1-piperidinylcarbonyl)-amino]propionate was dissolved in 6 ml of a solvent mixture of methanol: tetrahydrofuran (1:1). 1.04 ml (1.04 mmol) of 1 N aqueous lithium hydroxide solution was added to the obtained solution, and they were stirred at room temperature for 30 minutes. The reaction mixture was concentrated under reduced pressure, and the concentrate was acidified with 1 N aqueous hydrochloric acid solution. After extracting with ethyl acetate, the organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure to obtain the title compound.

reactant | methyl 3-hydroxy-2-[(1-piperidinylcarbonyl)-amino]propionate | 0.869 mmol, 200 mg | OCC(C(=O)OC)NC(=O)N1CCCCC1 | C10H18N2O4
reactant | lithium hydroxide | 1.04 mmol, 1 N, 1.04 ml | [OH-].[Li+]
solvent | methanol tetrahydrofuran | CO.O1CCCC1
product | 3-hydroxy-2-[(1-piperidinylcarbonyl)amino]propionic acid | OCC(C(=O)O)NC(=O)N1CCCCC1 | C9H16N2O4
